US06762180B1
(5) 4-[N-(2-dimethylamino-ethyl)-N-isobutyryl-amino]-nitrobenzene
Prepared from 4-(2-dimethylamino-ethylamino)-nitrobenzene and isobutyryl chloride

reactant | 4-(2-dimethylamino-ethylamino)-nitrobenzene | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 4-[N-(2-dimethylamino-ethyl)-N-isobutyryl-amino]-nitrobenzene | CN(CCN(C(C(C)C)=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C14H21N3O3
